US06605620B1
Synthesis of 1-(tert-Butoxycarbonyl)-4-phenylaminopiperidine
1-(tert-Butoxycarbonyl)-4-piperidone (5.00 g) and aniline (2.23 g) was treated in the same manner as described in Preparation Example 37 to give white needles of the title compound.

reactant | 1-(tert-Butoxycarbonyl)-4-piperidone | 5.00 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | aniline | 2.23 g | NC1=CC=CC=C1 | C6H7N
product | 1-(tert-Butoxycarbonyl)-4-phenylaminopiperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=CC=CC=C1 | C16H24N2O2
